* C:\Users\david\Desktop\École\Université\Undergrad\Work\finalproject\Real\Transients\Draft1.asc
V1 0 a 4
R3 e 0 8
R1 a b 5
R2 c a 6
R4 d 0 7
R5 0 a 3
I1 c d 3
V2 b e 1
.op
.backanno
.end
